US06562978B1
1-tert-Butoxycarbonyl-4-(2-thiazolylthio)piperidine
By a similar manner to Reference Example 35, 1-tert-butoxycarbonyl-4-hydroxypiperidine (1.01 g, 5.0 mmol) was reacted with 2-mercaptothiazole (0.70 g, 6.0 mmol) to give the titled compound as pale yellow oily substance (1.33 g, 89%).

reactant | 1-tert-butoxycarbonyl-4-hydroxypiperidine | 5.0 mmol, 1.01 g | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | 2-mercaptothiazole | 6.0 mmol, 0.70 g | SC=1SC=CN1 | C3H3NS2
product | 1-tert-Butoxycarbonyl-4-(2-thiazolylthio)piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)SC=1SC=CN1 | C13H20N2O2S2
